US05492903
Potassium hydroxide (67.3 g) was suspended in tetrahydrofuran (1.2 liters) and to the suspension was added 2-ethylhexanoic acid (173.1 g) was added. The mixture was stirred until potassium hydroxide was dissolved to obtain a solution of potassium 2-ethylhexanoate.

reactant | Potassium hydroxide | 67.3 g | [OH-].[K+]
reactant | 2-ethylhexanoic acid | 173.1 g | C(C)C(C(=O)O)CCCC | C8H16O2
solvent | tetrahydrofuran | 1.2 liters | O1CCCC1 | C4H8O
product | potassium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[K+] | InChI=1S/C8H16O2.K/c1-3-5-6-7(4-2)8(9)10;/h7H,3-6H2,1-2H3,(H,9,10);/q;+1/p-1
